US04134752
A solution of ethyl 2-hydroxyethyl sulfide (10.6 w) in dry ether (50 v) was slowly added to 2-chloroethanesulfinyl chloride (14.7 w) in dry ether (200 v) maintained at about -10° under a nitrogen atmosphere. Upon warming to ambient temperature, the reaction mixture was evaporated under reduced pressure. The residual oil was passed through a wiped film molecular still to yield 2-(ethylthio)ethyl 2-chloroethanesulfinate (15.4 w) boiling at 95-100° under reduced pressure (1 × 10-4 torr).

reactant | ethyl 2-hydroxyethyl sulfide | OCCSCC | C4H10OS
reactant | 2-chloroethanesulfinyl chloride | ClCCS(=O)Cl | C2H4Cl2OS
solvent | ether | CCOCC | C4H10O
product | 2-(ethylthio)ethyl 2-chloroethanesulfinate | ClCCS(=O)OCCSCC | C6H13ClO2S2
